US06090820
Step 1: cis-3-benzyl-7-(2-fluoro-4-nitrophenyl)-3,7-diazabicyclo[3,3,0]octane
To a solution of cis-3-benzyl-3,7-diazabicyclo[3.3.0]octane (0.35 g, 1.73 mmol) in acetonitrile (10 mL) is added 3,4-difluoronitrobenzene (0. 19 mL, 1. 73 mmol) and potassium carbonate (0.60 g, 4.33 mmol) under a nitrogen atmosphere at ambient temperature. The reaction is stirred 15 hours, concentrated in vacuo, and diluted with ethyl acetate (100 mL). The organic phase is washed with water (3×20 mL) and saline (20 mL), dried over sodium sulfate, concentrated in vacuo, and chromatographed on silica gel (230-400 mesh, 100 mL), eluting with chloroform/methanol (99/1). The appropriate fractions are combined (Rf =0.49, TLC, chloroform/methanol, 95/5) and concentrated in vacuo to give the title compound, NMR (CDCl3) 7.94, 7.88, 7.29, 6.62, 3.73, 3.64, 3.44, 2.97, 2.75, 2.55.

reactant | cis-3-benzyl-3,7-diazabicyclo[3.3.0]octane | 1.73 mmol, 0.35 g | C(C1=CC=CC=C1)N1C[C@@H]2CNC[C@@H]2C1 | C13H18N2
reactant | 3,4-difluoronitrobenzene | 73 mmol, 19 mL | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | potassium carbonate | 4.33 mmol, 0.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | cis-3-benzyl-7-(2-fluoro-4-nitrophenyl)-3,7-diazabicyclo[3,3,0]octane | C(C1=CC=CC=C1)N1C[C@@H]2CN(C[C@@H]2C1)C1=C(C=C(C=C1)[N+](=O)[O-])F | C19H20FN3O2
